* c:\users\vinit\desktop\summation-of-counter\1fullfinal\inv\inv.cir

.include vinit_inverter.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
v2  net-_x1-pad1_ gnd 5
* u2  a net-_u2-pad2_ adc_bridge_1
* s c m o d e
x1 net-_x1-pad1_ net-_u2-pad2_ gnd net-_u3-pad1_ vinit_inverter
v1  a gnd pulse(0 5 1ns 1ns 1ns 1 2)
* u3  net-_u3-pad1_ y dac_bridge_1
* u1  a plot_v1
* u4  y plot_v1
a1 [a ] [net-_u2-pad2_ ] u2
a2 [net-_u3-pad1_ ] [y ] u3
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.01e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a)
plot v(y)
.endc
.end
